US07396844B1
Synthesis of ethyl 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoate
1.7 g (10.2 mmol) of ethyl 4-hydroxybenzoate, 1.76 g (9.3 mmol) of 1-t-butoxycarbonyl-4-hydroxypiperidine and 2.44 g (9.3 mmol) of triphenylphosphine were dissolved in 40 ml of tetrahydrofuran. 1.62 g (9.3 mmol) of diethyl azodicarboxylate was added to the solution at room temperature, and they were stirred overnight. The crude product was obtained by the same isolation process as that of step 1 in Example 1 with ethyl acetate as the extractant. After the purification by the silica gel column chromatography, the title compound was obtained.

reactant | ethyl 4-hydroxybenzoate | 10.2 mmol, 1.7 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 9.3 mmol, 1.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 9.3 mmol, 2.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9.3 mmol, 1.62 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoate | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C(=O)OCC)C=C1 | C19H27NO5
